US05230816
3,9-Bis(octadecylamino)-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane
The procedure of Example 1 is repeated using 13.3 g (50 mmol) of 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane, 27.1 g (100 mmol) of octadecylamine and 15 mL (110 mmol) of triethylamine in 350 mL of toluene to give a crude reaction residue. The residue is purified by recrystallization from a mixture of toluene and acetonitrile to give 33 g (90% yield) of the title compound as an off-white solid melting at 67°-70° C.

reactant | 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | 50 mmol, 13.3 g | ClP1OCC2(CO1)COP(OC2)Cl | C5H8Cl2O4P2
reactant | octadecylamine | 100 mmol, 27.1 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | triethylamine | 110 mmol, 15 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 3,9-Bis(octadecylamino)-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | 33 g, 90% yield | C(CCCCCCCCCCCCCCCCC)NP1OCC2(CO1)COP(OC2)NCCCCCCCCCCCCCCCCCC | C41H84N2O4P2
